US06960575B2
(1RS,2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenyl-1-(1,3-thiazol-2-yl)-1-propanol (Compound No. 5-1)
N-Methylmorpholine (66.4 μl) is added to a solution of {(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid (162 mg, Reference compound No. 51-1) in tetrahydrofuran (2.5 ml). The mixture is cooled to −10° C., isobutyl chloroformate (65.4 μl) is added to the mixture, and the whole is stirred for 15 minutes. A mixed solution of (1RS,2S)-2-amino-3-phenyl-1-(1,3-thiazol-2-yl)-1-propanol hydrochloride (150 mg, Reference compound No. 10-2) and N-methylmorpholine (132.6 μl) in tetrahydrofuran (2.5 ml) and dimethyl sulfoxide (1 ml) is added thereto, and the whole is stirred overnight. Water is added to the reaction mixture, and the whole is extracted with ethyl acetate. The extract is washed with an aqueous sodium hydrogencarbonate solution, water and saturated brine successively and dried over magnesium sulfate. The extract is concentrated under reduced pressure, and the resulting residue is purified by column chromatography to give the titled compound (162.9 mg).

reactant | N-Methylmorpholine | 66.4 μl | CN1CCOCC1 | C5H11NO
reactant | {(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)O)=O)C(C)C | C17H20N2O4
reactant | isobutyl chloroformate | 65.4 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (1RS,2S)-2-amino-3-phenyl-1-(1,3-thiazol-2-yl)-1-propanol hydrochloride | Cl.N[C@H](C(O)C=1SC=CN1)CC1=CC=CC=C1
reactant | N-methylmorpholine | 132.6 μl | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | (1RS,2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenyl-1-(1,3-thiazol-2-yl)-1-propanol | 162.9 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(O)C=1SC=CN1)CC1=CC=CC=C1)=O)C(C)C | C29H32N4O4S
